US08975282B2
Step 1) N-(4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a mixture of 4-aminophenol (1.09 g, 10 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (2.37 g, 10.2 mmol) in DCM (30 mL) was added EDCI (2.3 g, 12 mmol) and HOAT (0.27 g, 2 mmol). The mixture was stirred at 46° C. for 4 hours, then cooled to rt and diluted with EtOAc (10 mL) and water (10 mL). The mixture was stirred at rt for 1 hour, then filtered to give the title compound as a white solid (1.7 g, 52.5%).

reactant | 4-aminophenol | 10 mmol, 1.09 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 10.2 mmol, 2.37 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 12 mmol, 2.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 2 mmol, 0.27 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | N-(4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.7 g, 52.5% | OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H17N3O3
